* Drive stage from a popular guitar pedal

Vin vi 0 SIN(0 1 50)

* input network
C5  vi v1 100n
R19 v1 vb  10k
R20 vb  0 100k

* emitter network
R21 ve  0 150

* vcc network
Vp  vp  0 DC 9
R18 vp vc 10k

* feedback network
R17 vb vc 470k
C12 vb vc 470p
C6  vb vd 1u
D3  vd vc D1N914
D4  vc vd D1N914

* BJT
Q1 vc vb ve Q2N5089 ; C B E

* 1N914 diode model
.model D1N914 D (IS=2.52E-9 N=1.752)

* 2N5089 model
.model Q2N5089 NPN (IS=5E-14 BF=600 BR=50)

* output network
Cout vc vo 100n ; no_combine
Rout vo  0 100k

* Newton-Raphson solver config
* nr_solve(max_iter=10, tol=1.0e-4)

.tran 0 80m 0 20.0u
* .ac dec 100 10 20k
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
